US05290939
In the course of from 30 to 45 minutes, at 20°, with stirring, 43.9 g of bromine are added dropwise to a solution of 45.9 g of 2-hydroxy-5-methoxy-benzoic acid methyl ester in 125 ml of heptane. The reaction mixture is then stirred for a further 3 to 4 hours, then diluted with 110 ml of water and stirred for a further one hour and then 295 ml of heptane and 46 ml of tert-butyl methyl ether are added thereto. The mixture is then heated to from 50° to 55° and the aqueous phase is separated off. The organic phase is extracted twice with 114 ml of water each time and cooled to -20°. The crystals which precipitate are filtered off and dried under a high vacuum. 3-Bromo-2-hydroxy-5-methoxy-benzoic acid methyl ester is thus obtained; yield 82.5% of the theoretical yield.

reactant | bromine | 43.9 g | BrBr | Br2
reactant | 2-hydroxy-5-methoxy-benzoic acid methyl ester | 45.9 g | COC(C1=C(C=CC(=C1)OC)O)=O | C9H10O4
reactant | tert-butyl methyl ether | 46 ml | COC(C)(C)C | C5H12O
solvent | heptane | 125 ml | CCCCCCC | C7H16
solvent | water | 110 ml | O | H2O
solvent | heptane | 295 ml | CCCCCCC | C7H16
product | 3-Bromo-2-hydroxy-5-methoxy-benzoic acid methyl ester | yield 82.5% | COC(C1=C(C(=CC(=C1)OC)Br)O)=O | C9H9BrO4
